US06124317
4-(o-(Trifluoromethyl)phenoxy)-1-bromobutane
A mixture of α,α,α-trifluoro-p-cresol (2.22 g, 13.7 mmol), K2CO3 (1.99 g, 14.4 mmol) and 1,4-dibromobutane (14.5 g, 68.5 mmol) in CH3CN (50 mL) was stirred at ref lux under N2 for 24 h. The reaction was allowed to cool to 25° C. and then added to water (100 mL). The resulting biphasic mixture was extracted with CHCl3 3×50 mL). The extract was washed with water (1×50 mL), saturated NaHCO3 (2×50 mL) and water (1×50 mL), filtered through cotton and the solvent removed in vacuo to give an orange liquid. The excess 1,4-dibromobutane was removed by vacuum distillation (5 Torr, 72-78° C.). The still pot residue, which contained the product was subjected to chromatography on silica gel (2.5×30 cm) with CHCl3 elution, yielded a colorless liquid; (2.75 g, 68%); 1H NMR (CDCl3) 1.89-2.17 (m, 4 H), 3.50 (t, J=6.3 Hz, 2 H), 4.09 (t, J=5.7 Hz, 2 H), 6.92-7.05 (m, 2 H), 7.48 (t, J=7.8 Hz, 1 H), 7.56 (d, J=7.8 Hz, 1 H).

reactant | α,α,α-trifluoro-p-cresol | 13.7 mmol, 2.22 g | FC(C=1C=CC(=CC1)O)(F)F | C7H5F3O
reactant | K2CO3 | 14.4 mmol, 1.99 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dibromobutane | 68.5 mmol, 14.5 g | BrCCCCBr | C4H8Br2
reactant | water | 100 mL | O | H2O
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 4-(o-(Trifluoromethyl)phenoxy)-1-bromobutane | FC(C1=C(OCCCCBr)C=CC=C1)(F)F | C11H12BrF3O
